US05102897
2,6-Bis(1,1-dimethylethyl)-4-[(5-methylthio-1,3,4-thiadiazol-2-yl)methoxy]phenol
A solution of 1N sodium hydroxide (1.05 mL, 1.05 mmol) is added over 5 minutes to a solution of 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-methyl]-1,3,4-thiadiazole-2(3H)-thione (0.37 g, 1.05 mmol) and iodomethane (0.26 mL, 4.20 mmol) in methanol (10 mL). The reaction is stirred for 30 minutes, then the pink precipitate is filtered and washed with methanol/water. A second crop is collected, and the combined precipitate is (71%) of pink platelets which are 2,6-bis(1,1-dimethylethyl)-4-[(5-methylthio-1,3,4-thiadiazol-2-yl)methoxy]phenol; mp 128.0°-129.5° C.

reactant | sodium hydroxide | 1.05 mmol, 1N, 1.05 mL | [OH-].[Na+]
reactant | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy]-methyl]-1,3,4-thiadiazole-2(3H)-thione | 1.05 mmol, 0.37 g | CC(C)(C)C=1C=C(OCC2=NNC(S2)=S)C=C(C1O)C(C)(C)C | C17H24N2O2S2
reactant | iodomethane | 4.20 mmol, 0.26 mL | IC | CH3I
solvent | methanol | 10 mL | CO | CH4O
product | 2,6-Bis(1,1-dimethylethyl)-4-[(5-methylthio-1,3,4-thiadiazol-2-yl)methoxy]phenol | CC(C)(C)C1=C(C(=CC(=C1)OCC=1SC(=NN1)SC)C(C)(C)C)O | C18H26N2O2S2
